US03976691
Diethylaminosulfur trifluoride, 2.5 ml (0.02 mole) was slowly added to a stirred solution of 2.44 g (0.02 mole) of benzoic acid in 20 ml methylene chloride cooled to 0°. Powdered sodium fluoride, 1 g, was added to remove the HF, and the reaction mixture was filtered. The filtrate was distilled to give 1.98 g (80%) of benzoyl fluoride as a colorless liquid, bp 50° (10 mm) (identified by its infrared spectrum).

reactant | Diethylaminosulfur trifluoride | C(C)N(CC)S(F)(F)F | C4H10F3NS
reactant | benzoic acid | 0.02 mole, 2.44 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | sodium fluoride | [F-].[Na+]
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | benzoyl fluoride | 1.98 g, 80% | C(C1=CC=CC=C1)(=O)F | C7H5FO
